US06380215B1
To a solution of N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3(S)-cyano-β-alanine tert-butyl ester (460.9 mg) in dichloromethane (5 ml) was added trifluoroacetic acid (4.6 ml). After stirring at ambient temperature for 2 hours, the mixture was concentrated in vacuo. The residue was dissolved in water and desalted by HP-20 eluting with (IPA:water=1:1). The eluting solution was concentrated in vacuo and freeze-dried to give N-[(R)-1-{3-(4-piperidyl)propionyl}-3-piperidylcarbonyl]-3(S)-cyano-β-alanine (0.12 g).

reactant | N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3(S)-cyano-β-alanine tert-butyl ester | 460.9 mg | C(C)(C)(C)OC(C[C@H](NC(=O)[C@H]1CN(CCC1)C(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O)C#N)=O | C27H44N4O6
reactant | trifluoroacetic acid | 4.6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[(R)-1-{3-(4-piperidyl)propionyl}-3-piperidylcarbonyl]-3(S)-cyano-β-alanine | 0.12 g | N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)N[C@@H](CC(=O)O)C#N | C18H28N4O4
